US09416080B2
Cyclohexyl Phenyl Ether
Into a pressure vessel phenyl acetate (126 μL, 1 mmol, 1 eq) was added and diluted with cyclohexane (1.080 mL, 10 mmol, 10 eq). To this stirring solution was added 1 mol % of a stock solution of {[Cl2NN]Cu}2(benzene) from the catalyst stock solution described in Example 4 (200 μL=0.01 mmol). After adding of tert-butyl peroxide (220 μL, 1.2 mmol), the pressure vessel was sealed and heated to 90° C. for 24 hr. The catalyst was separated by exposing the mixture to air and filtering through Celite®. After removing cyclohexane under vacuum, the residue was analyzed by 1H NMR and GC/MS to determine the yield and consumption of starting materials.

reactant | phenyl acetate | 1 mmol, 126 μL, 1 eq | C(C)(=O)OC1=CC=CC=C1 | C8H8O2
reactant | cyclohexane | 10 mmol, 1.080 mL, 10 eq | C1CCCCC1 | C6H12
reactant | tert-butyl peroxide | 1.2 mmol, 220 μL | C(C)(C)(C)OOC(C)(C)C | C8H18O2
product | Cyclohexyl Phenyl Ether | C1(=CC=CC=C1)OC1CCCCC1 | C12H16O
